US06696110B1
A solution of 2-bromo-5-pentylthiophene (10.0 g), 4-methoxyphenyl boronic acid (7.9 g), 2M aqueous sodium carbonate solution (150 cm3), 2.3 g tetrakis(triphenylphosphine)palladium (0) and dimethoxyethane (100 cm3) was heated under reflux for 6 h. 20% Hydrochloric acid (200 cm3) was added to the cooled reaction mixture and the resultant mixture extracted with diethyl ether (5×100 cm3). The combined organic layers were washed with 20% hydrochloric acid (1×100 cm3), brine (2×100 cm3) and then dried (MgSO4), filtered and evaporated down. The residue was purified by column chromatography on silica gel using a 4:1 hexane/dichloromethane mixture as eluent and recrystallisation from ethanol to yield 8.7 g of 2-(4-methoxyphenyl)-5-pentylthiophene, K 58-60° C., I.

reactant | 2-bromo-5-pentylthiophene | 10.0 g | BrC=1SC(=CC1)CCCCC | C9H13BrS
reactant | 4-methoxyphenyl boronic acid | 7.9 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2M, 150 cm3 | C([O-])([O-])=O.[Na+].[Na+]
reactant | Hydrochloric acid | 200 cm3 | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 100 cm3 | C(OC)COC | C4H10O2
product | 2-(4-methoxyphenyl)-5-pentylthiophene | 8.7 g | COC1=CC=C(C=C1)C=1SC(=CC1)CCCCC | C16H20OS
